US07812043B2
1-Cyclopropylmethyl-6-fluoro-1H-indole-3-carboxylic acid thiazol-2-ylamide (2.5 mmol), N-bromosuccinimide (6 mmol) was stirred in HOAc (25 mL) over night at room temperature. The reaction mixture was evaporated to dryness and the crude product was purified by flash chromatography (Horizon, EtOAc-heptane) to give 1-cyclopropylmethyl-6-fluoro-1H-indole-3-carboxylic acid (5-bromo-thiazol-2-yl)-amide in 32% yield. A solution of 1-cyclopropylmethyl-6-fluoro-1H-indole-3-carboxylic acid (5-bromo-thiazol-2-yl)-amide (0.2 mmol), p-cresol (0.2 mmol) and potassium-t-butoxide (0.44 mmol) in DME (3 mL) was heated in a closed vessel in a Smith Creator microwave oven for 300 s at 120° C. Addition of water followed by extraction with DCM, drying of the organic phase followed by purification by preparative HPLC (Method E) gave the title compound.

reactant | 1-Cyclopropylmethyl-6-fluoro-1H-indole-3-carboxylic acid thiazol-2-ylamide | 2.5 mmol | S1C(=NC=C1)NC(=O)C1=CN(C2=CC(=CC=C12)F)CC1CC1 | C16H14FN3OS
reactant | N-bromosuccinimide | 6 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | HOAc | 25 mL | CC(=O)O | C2H4O2
product | 1-cyclopropylmethyl-6-fluoro-1H-indole-3-carboxylic acid (5-bromo-thiazol-2-yl)-amide | 32% yield | BrC1=CN=C(S1)NC(=O)C1=CN(C2=CC(=CC=C12)F)CC1CC1 | C16H13BrFN3OS
